Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
alfuzosin / dutasteride / solifenacin
 
Attending: ___.
 
Chief Complaint:
s/p fall, OSH transfer
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ w/hx of squamous cell carcinoma of the lung 
with metastasis to the brain, s/p chemo, s/p radiation, DMII, 
HTN, who was transferred from ___ because of concern for 
intracranial hemorrhage.  

The patient reportedly fell down at ~8pm on ___ after he lost 
his balance when he was transitioning to a couch. He was walking 
with a walker, and the fall was witnessed by wife. He was too 
weak to get up from the floor. He was able to crawl to the rug 
where he slept o/n because he didn't initially want EMS to help 
him up. ___ found down on ___. Patient initially went to 
___, and was sent to ___ due to concern of hematoma 
in the brain surrounding known brain metastasis. Patient denies 
head strike, neck pain, back pain, numbness, tingling or 
weakness which is new. No chest pain or shortness of breath.  

In the ED, initial vitals were: T97.6 72 142/78 18 97% RA. 
Imaging was notable for: CT-spine w/o fx, tib/fib xray w/o acute 
fx or dislocation. CXR at ___ was without any evidence of a 
cardiopulmonary process. Patient was given: Keppra 500, CTX 1g. 
Neurosurgery was consulted, and recommended continuing home 
keppr. They reported that the bleed was likely a spontaneous 
brain hematoma unrelated to fall. They recommended no surgery, 
follow-up with previously scheduled brain tumor appt. 
 
This morning, patient was mildly confused and had difficulty 
answering questions. He was AAOx2. He knew the location, and the 
state in which he was located. He was unable to report what 
brought him to the hospital.  
 
Past Medical History:
- Lung CA s/p chemo, XRT, and LLL resection ___ years ago. 
Previously followed at ___ with serial imaging that was 
negative. New brain lesions on recent admission ___, s/p 
five treatments of sterotactic radiation. 
- Hypertension  
- Hyperlipidemia  
- Type II Diabetes  
- s/p left foot ___ and ___ digit amputations for gangrene  
- Poliomyelitis at ___ years old  
- s/p left leg ORIF  
- h/o PE in setting of cancer s/p IVC filter (per patient, not  
 retrieved)  
- hemorrhagic pericardial effusion in setting of Coumadin use, 
s/p pericardiocentesis  
 
Social History:
___
Family History:
Mother and sister with breast cancer.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
======================  
Vital Signs: 97.4 158 / 82 68 18 95 Ra  
General: AAOx2, NAD  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL.  
Neck: Supple. JVP not elevated. no LAD  
CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops.  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
Ext: Bilateral 2+ pitting ___ edema. Left lower extremity ___ 
digits amputations, erythema around the remaining digits. Also 
area of erythema in L anterior shin.  Right lower extremity 
middle digit amputation.   
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation

DISCHARGE PHYSICAL EXAM
======================
VITALS:  97.5, 161 / 78 61 16 96 
GENERAL: Lying in bed, NAD
HEENT:  Pupils 2 mm, minimally reactive. EOMI
NECK:  No cervical or supraclavicular LAD. Subcentimeter 
non-tender L submandibular LN. Full ROM.
LUNGS:  No increased WOB. Clear to auscultation bilaterally 
without wheezes/rales/rhonchi. 
CV:  Irregularly irregular. No murmurs.  
ABD:  Normoactive bowel sounds. NTND. No hepatosplenomegaly. 
EXT:  Trace-1+ pitting edema in lower extremities bilaterally. 4 
cm vertical linear area of erythema over L anterior shin, 
erythema appears to be improving. Left foot is status post ___ 
digit amputation with ulcer over ___ metatarsal. Distal aspect 
of foot is mildly erythematous and warm compared to rest of LLE. 
Left calf is moderately TTP. 1+ DP pulses bilaterally. 
SKIN:  See extremities. 
NEURO: R lower facial droop. AO x ___ (needs help with date).

 
Pertinent Results:
ADMISSION LAB RESULTS
===================
___ 02:03PM BLOOD WBC-7.5 RBC-3.95* Hgb-12.1* Hct-38.7* 
MCV-98 MCH-30.6 MCHC-31.3* RDW-13.6 RDWSD-49.1* Plt ___
___ 02:03PM BLOOD Neuts-74.5* Lymphs-9.7* Monos-9.8 Eos-4.8 
Baso-0.7 Im ___ AbsNeut-5.60 AbsLymp-0.73* AbsMono-0.74 
AbsEos-0.36 AbsBaso-0.05
___ 02:03PM BLOOD Glucose-175* UreaN-14 Creat-1.0 Na-142 
K-3.9 Cl-100 HCO3-29 AnGap-17
___ 02:03PM BLOOD ALT-13 AST-23 LD(LDH)-210 CK(CPK)-183 
AlkPhos-81 TotBili-0.4
___ 02:03PM BLOOD Albumin-3.4* Calcium-8.5 Phos-3.3 Mg-2.0
___ 02:03PM BLOOD TSH-3.5

DISCHARGE LAB RESULTS
====================
___ 07:15AM BLOOD WBC-8.9 RBC-3.83* Hgb-12.0* Hct-36.1* 
MCV-94 MCH-31.3 MCHC-33.2 RDW-13.8 RDWSD-47.9* Plt Ct-90*
___ 07:15AM BLOOD Glucose-207* UreaN-19 Creat-1.3* Na-142 
K-3.0* Cl-104 HCO3-30 AnGap-11
___ 07:15AM BLOOD Calcium-8.1* Phos-3.2 Mg-1.9

IMAGING/STUDIES
==============
___ XRay of Tibia/Fibula:
No acute fracture or dislocation of the left tibia or fibula.

___ CT C-Spine:
No acute fracture or malalignment. 

___ Left Foot XRay:
There has been prior amputation of portions of the third through 
fifth metatarsals. There is cortical irregularity involving the 
distal stump of the third metatarsal and there is an adjacent 
soft tissue ulcer. This is suspicious for osteomyelitis however 
comparison to old films would be helpful to establish if this is 
an interval change. Degenerative changes of the midfoot are 
identified. There is an inferior calcaneal spur. Degenerative 
changes of the second PIP joint are also present.

___ Lower Extremity Arterial Exam:
Normal resting right ankle-brachial index with moderately 
decreased resting left ankle-brachial index indicative of left 
peripheral vascular disease.

___ EEG:
This is an abnormal continuous ICU monitoring study because of 
(1) focal slowing and a relative loss of faster frequency 
activity on the left side, indicative of focal cerebral 
dysfunction; (2) continuous, semi-rhythmic delta admixed with 
polymorphic theta activity in the background, indicative of a 
moderate etiologically-nonspecific encephalopathy. There are no 
pushbutton events. There are no electrographic seizures or 
epileptiform discharges.

___ CTA Head and Neck:
1. Hemorrhagic left occipital metastatic lesions, better 
characterized on recent prior MR examination. Additional smaller 
lesions as previously characterized, are not well seen on CT 
examination. Confluent areas of left-greater-than-right white 
matter hypodensity likely reflect a combination of vasogenic 
edema and posttreatment changes.
2. No new hemorrhage or acute large territorial infarct.
3. Severe left and moderate right narrowing of the V4 segments 
of the vertebral arteries as well as mild narrowing of the 
bilateral intracranial internal carotid arteries. Otherwise 
patent intracranial arterial vasculature without occlusion or 
aneurysm formation. 
4. 20% stenosis of the right internal carotid artery by NASCET 
criteria. Otherwise patent cervical arterial vasculature without 
high-grade stenosis, occlusion, or dissection. 
5. Paranasal sinus disease, as described. Near complete left 
mastoid and middle ear cavity opacification and mild right 
mastoid air cell opacification which can be seen in the setting 
of mastoiditis/otomastoiditis. 
6. Increase in size of a 15 mm spiculated right upper lobe lung 
nodule. 
7. Interval increase of matted soft tissue density extending 
from the left hilus to the AP window, suspicious for progressive 
metastatic disease. 
8. Unchanged enlarged right hilar lymph node measuring 18 x 11 
mm.

___ MR HEAD W/ W/O CONTRAST: IMPRESSION:  
1. Stable multiple enhancing lesions in keeping with the 
patient's known history of metastatic brain disease, with the 
largest lesions in the left occipital and left cuneus containing 
internal hemorrhagic content with peripheral enhancement. 
2. No evidence of new lesion or abnormal enhancement.  No 
evidence of acute infarction. 

___ KUB: IMPRESSION: IVC filter in place.
 
___ BILAT LENIS: IMPRESSION:  
Extensive deep vein thrombosis of the left lower extremity from 
the common femoral vein extending at least to the popliteal 
vein.  Calf veins not well seen bilaterally. Right calf veins 
not well seen.  Otherwise, no evidence of deep venous thrombosis 
in the rightlower extremity veins. 

 
Brief Hospital Course:
Mr ___ is a ___ w/hx of intracranial tumor metastasis from 
squamous cell carcinoma s/p chemo, s/p SRS & cyberknife, DMII, 
HTN, PE s/p IVC Filter s/p fall, found to have likely 
spontaneous intracranial hemorrhage and LLE DVT. 

# Acute encephalopathy with R-sided weakness: Altered mental 
status that first started on ___ is most likely 
multifactorial given vasogenic edema from hemorrhagic brain 
lesion, as well as hospital delirium and was exacerbated by 
steroid-induced psychosis. On code stroke NCHCT ___ showed 
vasogenic edema likely surrounding the metastatic lesion. vEEG 
wet read without evidence of seizure, MRI brain without any new 
lesions or acute processes to the new R-sided deficits noted on 
___. He also had hallucinations likely due to steroids. He 
continued dexamethasone/keppra and received PRN Seroquel for 
severe agitation. 

#NSCLC with known brain & liver metastases: S/p ___ SRS to brain 
(completed in ___. Head imaging found to have occipital 
hemorrhagic brain lesion, likely related to metastasis & not 
trauma. He was treated with keppra/dexamethasone & given PO 
omeprazole for GI prophylaxis. Dexamethasone was tapered to 2 mg 
Q12H on discharge. Keppra dose on discharge 1000 mg BID. Goals 
of care discussion had with family - no plan to continue 
aggressive treatment give multiple brain metastases. He will be 
discharged to rehab with plan to transition to hospice 
afterward.

#Left leg DVT: Extensive clot burden from common fem to pop seen 
on ___ US. He is s/p IVC filter from previous PE. 
Anti-coagulation was held given recent intracranial hemorrhage.

#LLE erythema: Likely related to chronic vascular insufficiency 
(per podiatry) & DVT. There was initial concern for LLE 
cellulitis +/- osteomyelitis. Foot Xray concerning for possible 
osteomyelitis and CRP was elevated to 37.6. He was initially on 
broad spectrum ABx. Wound culture of L foot ulcer grew MSSA. 
Podiatry recommended oral Bactrim therapy. He was narrowed to 
this on ___. He should continue this for total 2 weeks (last 
day ___.

#Mechanical Fall: Per the patient's wife, the patient had a 
witnessed fall at home, thought to be spontaneous from brain met 
& not related to trauma. CK wnl. Trop neg. ___ consult recommend 
d/c to rehab.   

#Orthostatic hypotension: Chronic. AM Cortisol 7.4. TSH WNL. He 
continued home Fludrocortisone 0.1mg qd.   
 
#HTN: Home olmesartan held initially. Losartan started on ___ 
given olmesartan is non-formulary.  

#DM II: Hyperglycemic now on steroids. Home regimen is 10U 
glargine qHS and ISS. Regimen was increased while on steroids. 

___: Cr initially 1.3, then 1.1 with IVF. 

#HLD: He continued home simvastatin. He continued home ASA

#S/p toe amputations: Wound care followed. Podiatry consulted as 
above. 
 
TRANSITIONAL ISSUES
==================
- ___ need to advance bowel regimen; Pt without bowel movement 
in several days (passing gas, not uncomfortable)
- Repeat chem-7 on ___ to check Cr and potassium
- Patient with steroid-induced hyperglycemia. ___ need titration 
of glargine & sliding scale.
- Patient should follow-up in the brain tumor clinic with 
appointment that is already scheduled.
- Last day treatment dose Bactrim ___. Should transition to 
1 single strength Bactrim daily thereafter for PJP prophylaxis 
while on dexamethasone
- Code status: DNR/DNI
- CONTACT: ___ (Wife) cell phone: ___  
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. olmesartan 10 mg oral DAILY 
2. Magnesium Oxide 400 mg PO BID 
3. LevETIRAcetam 500 mg PO BID 
4. Lactobacillus acidophilus    oral DAILY 
5. Docusate Sodium 100 mg PO BID 
6. Simvastatin 40 mg PO QPM 
7. Aspirin 81 mg PO DAILY 
8. Loratadine 10 mg PO DAILY 
9. Cyanocobalamin 1000 mcg PO DAILY 
10. FoLIC Acid 0.8 mg PO DAILY 
11. Vitamin D 1000 UNIT PO DAILY 
12. Fludrocortisone Acetate 0.1 mg PO DAILY 
13. Glargine 10 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation   
3.  Dexamethasone 2 mg PO Q12H  
4.  Losartan Potassium 25 mg PO DAILY  
5.  Nystatin Oral Suspension 5 mL PO QID thrush Duration: 12 
Days 
___  
6.  Omeprazole 20 mg PO DAILY  
7.  Senna 8.6 mg PO BID constipation  
8.  Sulfameth/Trimethoprim DS 1 TAB PO BID 
Last day ___.   
9.  Glargine 22 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
10.  LevETIRAcetam 1000 mg PO Q12H  
11.  Aspirin 81 mg PO DAILY  
12.  Cyanocobalamin 1000 mcg PO DAILY  
13.  Docusate Sodium 100 mg PO BID  
14.  Fludrocortisone Acetate 0.1 mg PO DAILY  
15.  FoLIC Acid 0.8 mg PO DAILY  
16.  Lactobacillus acidophilus    oral DAILY  
17.  Loratadine 10 mg PO DAILY  
18.  Magnesium Oxide 400 mg PO BID  
19.  Simvastatin 40 mg PO QPM  
20.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Primary Diagnosis
- Mechanical fall
- Right sided muscle weakness secondary to vasogenic edema 
surrounding hemorrhagic brain mets
- Steroid-induced psychosis
- Hemorrhagic brain mets

Secondary Diagnosis
- Metastatic non-small cell lung cancer
- Cellulitis relate to left lower extremity diabetic foot ulcer
- Orthostatic hypotension

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,
You were hospitalized at ___.

Why were you brought to the hospital?
============================
- You were transferred here from ___ because of concern 
for a brain bleed.
- You had a skin infection which was treated with antibiotics. 
- You had new Right sided weakness likely related to swelling 
from the tumors in your brain. 

What did we do for you?
==================
- The neurosurgery team evaluated you, and determined that no 
surgery was needed
- Neurology team recommended increasing your dose of Keppra & 
started steroids to decrease the inflammation
- Podiatry recommended an oral antibiotic for the ulcer on your 
left foot. 

What do you need to do?
==================
- It is important that you take your medications as prescribed.

It was a pleasure caring for you. We wish you the best!

Sincerely,
Your ___ Medicine Team
 
Followup Instructions:
___